US07582629B2
4-[(4-Isopropoxyphenyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide
4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide (0.2 g, 0.7 mmol), 4-isopropoxyaniline (0.106 g, 0.7 mmol) and TEA (0.071 g, 0.7 mmol) was dissolved in dry MeCN (3 ml). The reaction mixture was heated at 160° C. for 30 min in a microwave reactor. The solvent was evaporated and the residue was purified by silica gel column chromatography using a 70:30 mixture of heptane:EtOAc as eluant to give the title compound (0.166 g, 59%). 1H NMR (500 MHz, CDCl3): δ 7.21-7.15 (m, 1H), 7.13-7.09 (m, 4H), 7.06 (brs, 1H), 6.65-6.59 (m, 2H), 6.53-6.48 (m, 2H), 4.48 (hep, 1H), 4.35 (hep, 1H), 1.63 (d, 6H), 1.23 (d, 6H); 13C NMR (125 MHz, CDCl3): δ 159.0, 155.5, 131.6, 129.5, 128.9, 128.1, 125.0, 124.1, 124.0, 116.0, 109.7, 70.4, 47.8, 21.9, 20.4.

reactant | 4-Chloro-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.7 mmol, 0.2 g | ClC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C12H12ClNO3S
reactant | 4-isopropoxyaniline | 0.7 mmol, 0.106 g | C(C)(C)OC1=CC=C(N)C=C1 | C9H13NO
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 4-[(4-Isopropoxyphenyl)amino]-2-isopropyl-5-phenylisothiazol-3(2H)-one 1,1-dioxide | 0.166 g, 59% | C(C)(C)OC1=CC=C(C=C1)NC=1C(N(S(C1C1=CC=CC=C1)(=O)=O)C(C)C)=O | C21H24N2O4S
